US04482560
4.8 Grams of 5-(3-chloropropoxy)-3,4-dihydrocarbostyril and 4.2 g of 4-benzylpiperidine were mixed with 40 ml of toluene and the mixture was heated under refluxing condition for 24 hours. After cooling of the reaction mixture, the precipitates thus formed were obtained by filtration and washed with water, then recrystallized from ethanol to obtain 6.3 g (yield: 76%) of 5-[3-(4-benzyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril as in the form of colorless needle-like crystals. Melting point: 143°-145° C.

reactant | 5-(3-chloropropoxy)-3,4-dihydrocarbostyril | ClCCCOC1=C2CCC(NC2=CC=C1)=O | C12H14ClNO2
reactant | 4-benzylpiperidine | 4.2 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[3-(4-benzyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril | 6.3 g, yield: 76% | C(C1=CC=CC=C1)C1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C24H30N2O2
